Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
abdominal pain, nausea, generalized weakness, headache
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo with AS, HLD, pancreatic ca s/p whipple ___ followed by 
Dr. ___ 2 weeks of nausea, abdominal pain and 
headache. She was referred to the ED out of concern for disease 
spread as etiology, which had been previously suspected based on 
newly rising LFT's and abdominal pain per visit with Dr. 
___ ___. She denies vomiting, though has had weight loss 
and weakness since her surgery. Has not had chemo-xrt due to 
nonhealing decub ulcer which is still present, and was known to 
be high risk for metastatic disease given lymphovascular and 
perineural invasion, lymph node involvement, and high tumor 
grade. She has not had prior head imaging as part of onc w/u 
since pancreatic usually does not go to brain. She notes 
constipation over the last 2 days, which is not unusual for her, 
but she is passing gas.  Currently she states she has 'a little 
pain' in her abdomen, worse with breathing or talking but 
improved after meds in the ED. This is the same pain that 
brought her to the ED, which she states has been present for 5 
months, but worse recently (unable ot clarify timeline of 
progression or rate on a scale). She has been taking the 
recently prescribed Tylenol #3 at home with some relief of her 
abdominal pain (takes twice daily). She denies nausea currently. 
She notes her sacral decubitus ulcer also bothers her sometimes 
with pain but none there currently. She has had poor appetite 
with limited food intake ever since her surgery but decreased 
fluid intake more recently (for the last few months?). She 
denies HA, fevers, chills, chest pain, sob, cough, sore throat, 
vomitting, diarrhea, melena, brbpr, dysuria, hematuria, rash, 
bleeding from mouth/gums. She has felt weak ever since her 
surgery 5 months ago. She note bilateral lumbar back pain and 
total body itching of unclear duration. 

In the ED: VS: T 98.6 HR 88 BP 128/51 RR 16 Sat 100% on RA. She 
was given 3L NS, ceftriaxone 1gm iv, zofran 4mg iv, and morphine 
2mg iv x2.

ROS: 10 point review of systems negative except as noted above.
 
Past Medical History:
Mild-moderate aortic stenosis 
Hypercholesterolemia
 
Social History:
___
Family History:
No significant cancer history, however, she lost her family at a 
very young age and thus most of her family history is relatively 
unknown
 
Physical Exam:
VS: T 98.1 HR 97 BP 105/59 RR 17 Sat 97% RA
Gen: Chronically ill appearing elderly woman in NAD
Eye: extra-occular movements intact, pupils equal round, 
reactive to light, sclera anicteric, not injected, no exudates
ENT: mucus membranes moist, no ulcerations or exudates
Neck: no thyromegaly, JVD: flat
Cardiovascular: regular rate and rhythm, normal s1, s2, III/VI 
SEM best at apex, no rubs or gallops
Respiratory: Decreased at both bases, but otherwise clear to 
auscultation bilaterally, no wheezes, rales or rhonchi
Abd: Soft, mild tenderness to palpation without rebound or 
guarding B lower quadrants>Bilateral upper quadrants, non 
distended, no heptosplenomegaly, bowel sounds present
Back: pressure ulcer/tract packed with gauze between upper 
portions of gluteal folds without erythema, no CVA tenderness
Extremities: No cyanosis, clubbing, edema, joint swelling
Neurological: Alert and oriented x3, CN II-XII intact, normal 
attention, sensation normal, speech fluent
Integument: Sacral wound as described above, few scattered 
ecchymoses, warm, moist, no rash or ulceration  
Psychiatric: flat affect, appropriate, pleasant, not anxious
Hematologic: no cervical or supraclavicular LAD
 
Pertinent Results:
Admit labs:
CBC: WBC-6.8 HGB-9.8* HCT-31.5* PLT COUNT-89*; diff: NEUTS-77.4* 
LYMPHS-14.7* MONOS-5.6 EOS-1.9 BASOS-0.4
BMP: GLUCOSE-100 UREA N-35* CREAT-1.3* SODIUM-137 POTASSIUM-4.8 
CHLORIDE-103 TOTAL CO2-25 
LFT: ALT(SGPT)-84* AST(SGOT)-113* ALK PHOS-715* TOT BILI-2.6* 
LIPASE-11
ALBUMIN-3.4 CALCIUM-9.0 PHOSPHATE-3.5 MAGNESIUM-2.3
LACTATE-1.4 
UA: BLOOD-TR NITRITE-NEG PROTEIN-NEG GLUCOSE-NEG KETONE-NEG 
BILIRUBIN-NEG UROBILNGN-4* PH-5.0 LEUK-MOD ___ 
BACTERIA-MOD YEAST-NONE ___

micro: blood cx ___ no growth to date
urine cx ___ mixed bacterial flora

CT abdomen/pelvis ___: 
IMPRESSION: 
1. Interval development of diffuse metastatic disease primarily 
involving the liver as described above. Small amount of 
perihepatic fluid. 
2. New tumor recurrence in the pancreatic bed causing partial 
obstruction of the hepaticojenunostomy limb. 
3. New severe right-sided hydronephrosis with delayed contrast 
excretion on the right due to obstructing soft tissue deposit at 
the proximal right ureter likely metastasis. 
4. Right-sided colonic wall thickening, likely due to venous 
stasis. 
5. Large left renal hypodensity, not significantly changed. 
7. Diverticulosis without evidence of acute diverticulitis. 
8. Bladder distention. 
9. Bilateral small pleural effusions, right greater than left. 
Patchy 
bibasilar opacities. 

CT Head ___: No acute intracranial hemorrhage.

ECG: NSR (85), nl axis, intervals, TWF III (similar to prior) 
but no acute st-t changes.
 
 
 
Brief Hospital Course:
___ yo woman with pancreatic cancer, now found to have widely 
metastatic disease likely contributing to nausea and abdominal 
pain and acute renal failure.

#Metastatic pancreatic cancer: newly found to be metastatic, 
though this had been suspected previously. She had not been a 
candidate for chemo/xrt at the time of her original whipple 
(___) due to a decubitus ulcer that is still present. CT scan 
here showed disease progression with liver mets, as well as 
tumor recurrence in the pancreatic bed.  Also likely has a 
metastases causing significant right hydronephrosis.  
Unfortunately her disease is far advanced and she is not a 
candidate for any chemo/XRT.  Her oncologist Dr. ___ has 
spoken to pt and family regarding her poor prognosis.  At this 
point, her care is palliative, focused on quality of life and 
symptom management.
.
# Abdominal pain: likely related to metastatic pancreatic 
disease - 
- tylenol ATC and morphine SL prn.  Symptoms currently 
controlled.  She is not using enough morphine at this time to 
warrant a fentanyl patch but if she does use >20 mg morphine 
oral daily, can consider starting a fentanyl 12 mcg/hr patch.
.
#. Acute renal failure: Cr 1.2. ___ have element of prerenal but 
also has severe hydronephrosis on right and bladder distension, 
suspect obstructive renal failure as well.  Her urine output 
remains good so we did not intervene or place catheter.   

# Hematuria: suspect secondary to thrombocytopenia and 
coagulopathy/DIC.  Her anemia remained stable this admission.

# Coagulopathy/DIC/thrombocytopenia: suspect this is due to 
underlying malignancy.  Her platelets continued to trend down to 
___.  Her other labs including haptoglobin, fibrin degradation 
products all suggested underlying low grade hemolysis.  She has 
had some hematuria but no signs of other bleeding or hemodynamic 
instability.
 
# Transamnitis: likely ___ mets to liver
- given metastatic disease and poor prognosis, active DIC, will 
likely not pursue RUQ U/S because unlikely we can intervene

#Constipation: Likely related to the recently initiated 
outpatient tylenol with codeine.  Initiated on bowel regimen.  

# Moderate aortic stenosis: Valve area 1.0-1.2 last tte (___). 
Pre-load dependent likely.  Hemodynamically stable.

# Pyuria but culture negative (just show normal flora), 
consistent with contamination
She received ceftriaxone empirically on admission for possible 
UTI.  Antibiotics now discontinued.

#. Healing stage ___ pressure - wound care followed in house for 
care.
Wound recare
Recommendations: Pressure relief per pressure ulcer guidelines
air mattress 
Turn and reposition every ___ hours and prn, the patient will
need pain medication on a regular basis.
Heels off bed surface at all times
If OOB, limit sit time to one hour at a time and sit on a
pressure relief cushion, gaymar cushion.

Commercial wound cleanser or normal saline to irrigate/cleanse
all open wounds.
Pat the tissue dry with dry gauze
Pack loosely with ___ AMD gauze damp with NS
Cover with 2 x 2s
Secure with Medipore tape.
Change dressing daily

** patient should only be on the bedpan for the brief time it
takes to void or be assisted to and from the bathroom.

#Anemia: stable, normocytic, labs suggest anemia chronic 
disease.

#GERD: continue PPI

#. Hyperlipidemia:  lipitor on hold given transaminitis.

#. Difficulty swallowing: no obvious throat lesions and she in 
fact passed a bedside swallow evaluation without any overt signs 
of aspiration.  Per her request, her diet has been ordered for 
pureed solids and thin liquids.  Medications should be crushed 
when possible for ease of swallowing.

Spoke with pt and son ___ about overall poor prognosis with 
metastatic disease and that a code/resuscitation would not 
result in any regain of current function, and would not result 
in her being awake and interactive with family.  Pt seems unable 
to actively make a decision at this point, and she has said she 
will defer decisions to her son ___.  Given her continued 
decline in platelets, DIC, hematuria, renal failure, metastatic 
disease, high risk of bleed and potential real harm from 
intubation/CPR, resuscitation is not medically indicated and 
would in fact be potentially harmful.  Have discussed with her 
HCP ___ who agrees with DNR/DNI.

She will be going to a SNF for now and will received physical 
therapy as she is able.  Her son agrees that goals of care are 
focused on comfort at this point.  If she has severe symptoms 
that cannot be controlled at the facility, this is a reasonable 
indication for hospitalization.  However, for generalized 
clinical decline such as fatigue, dehydration, hypotension 
without uncontrolled discomfort, her son anticipates that she 
will be do-not-rehospitalize. 

Main family contact son ___ ___
 
___ on Admission:
AMYLASE-LIPASE-PROTEASE [CREON 20] (66,400 unit-20,000 
unit-75,000 unit) QID with meals as directed 
ATORVASTATIN - 10 mg by mouth once a day 
DOCUSATE 100 mg by mouth twice a day 
OMEPRAZOLE 20 mg by mouth once a day 
tylenol with codeine q6 hours prn pain ->has been taking bid
 
Discharge Medications:
1. Docusate Sodium 50 mg/5 mL Liquid Sig: One Hundred (100) mg 
___ BID (2 times a day) as needed for constipation.  
2. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime) as needed for constipation.  
3. Amylase-Lipase-Protease 60,000-12,000- 38,000 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap ___ QIDWMHS (4 times a day 
(with meals and at bedtime)): pt to take as able.  has 
difficulty with pills, no signs of aspiration.  
4. Senna 8.6 mg Tablet Sig: One (1) Tablet ___ BID (2 times a 
day) as needed for constipation.  
5. Acetaminophen 650 mg Tablet Sig: One (1) Tablet ___ TID (3 
times a day).  
6. Morphine Concentrate 20 mg/mL Solution Sig: ___ mg ___ Q2H 
(every 2 hours) as needed for pain: Please note that this 
concentration is 20 mg/mL, so she will receive a small quantity 
(less than half a mL).  If dose is insufficent for pain relief, 
please ask MD to adjust dose.  
7. Lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___ a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Metastatic pancreatic cancer with liver metastases
Abdominal Pain
Thrombocytopenia
Disseminated intravascular coagulation (DIC)
Acute renal failure
Hydronephrosis due to metastatic disease

Secondary:
Healing stage ___ pressure ulcer
Anemia, normocytic (anemia chronic disease)
GERD
Hyperlipidemia

 
Discharge Condition:
fair

 
Discharge Instructions:
You are going to a skilled facility for further care.  
Participate in physical therapy exercises as you are able.  You 
will also have pain medications available for any abdominal pain 
or other symptoms you may be experiencing. 

Please return to the hospital if you develop uncontrolled pain 
or other discomfort which cannot be adequately controlled at the 
facility.

 
Followup Instructions:
___